US08293744B2
Step 2: Preparation of ethyl 3-(2-fluoropyridine-3-yl)-3-oxopropanoate:
Potassium 3-(ethoxy)-3-oxopropanoate (6.06 g, 35.6 mmol) was suspended in acetonitrile (100 mL), cooled to 0° C. and treated successively with triethylamine (4.96 mL, 35.6 mmol, 1 equiv) and anhydrous magnesium(II) chloride (3.39 g, 35.6 mmol, 1 equiv). The ice bath was removed and the mixture was warmed to ambient temperature and stirred for 2.5 hours. An acetonitrile (5 mL) solution of 2-fluoropyridine-3-carbonyl choride (5.68 g, 35.6 mmol) was added and the mixture was stirred for 72 hours at ambient temperature. The mixture was concentrated in vacuo and the residue was concentrated from toluene (1×75 mL). The residue was suspended in toluene (50 mL), cooled to 0° C. and treated with hydrochloric acid (20 mL, 12 N aqueous). After 15 minutes, the mixture was warmed to ambient temperature and stirred for an additional 45 minutes. The mixture was poured into water (50 mL) and extracted with ethyl acetate (3×75 mL). The combined organic extracts were dried with sodium sulfate, filtered and concentrated in vacuo. The residue was purified by silica gel gradient chromatography (100:0 to 1:1; hexanes:ethyl acetate), providing the titled compound.

reactant | Potassium 3-(ethoxy)-3-oxopropanoate | 35.6 mmol, 6.06 g | C(C)OC(CC(=O)[O-])=O.[K+]
reactant | triethylamine | 35.6 mmol, 4.96 mL, 1 equiv | C(C)N(CC)CC | C6H15N
reactant | magnesium(II) chloride | 35.6 mmol, 3.39 g, 1 equiv | [Cl-].[Mg+2].[Cl-]
reactant | 2-fluoropyridine-3-carbonyl choride | 35.6 mmol, 5.68 g | FC1=NC=CC=C1C(=O)Cl | C6H3ClFNO
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | ethyl 3-(2-fluoropyridine-3-yl)-3-oxopropanoate | FC1=NC=CC=C1C(CC(=O)OCC)=O | C10H10FNO3
